US07772270B2
Compound No. 26: 1-[4′-(3-Phenylureido)biphenyl-4-sulfonyl]octahydro-cyclopenta[b]pyrrole-2-carboxylic acid
500 mg (1.30 mmol) of 1-(4′-aminobiphenyl-4-sulfonyl)octahydrocyclopenta[b]pyrrole-2-carboxylic acid were dissolved in 3 ml of DMF, after which the solution was cooled down to 0° C. in an ice bath and 1.4 mmol of phenylisocyanate were added. The reaction solution was then stirred at RT for a further 4 h. The crude product was purified using chromatographic methods.

reactant | 1-(4′-aminobiphenyl-4-sulfonyl)octahydrocyclopenta[b]pyrrole-2-carboxylic acid | 1.30 mmol, 500 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)N1C2C(CC1C(=O)O)CCC2 | C20H22N2O4S
reactant | phenylisocyanate | 1.4 mmol | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-[4′-(3-Phenylureido)biphenyl-4-sulfonyl]octahydro-cyclopenta[b]pyrrole-2-carboxylic acid | C1(=CC=CC=C1)NC(NC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)N1C2C(CC1C(=O)O)CCC2)=O | C27H27N3O5S
